US07273868B2
A mixture of whole amount of 4-(3-chloro-4-methoxybenzylamino)-5-chloroformyl-6-chloro-2-methylthiopyrimidine (prepared in the above (1)), methylene chloride 15 ml and 2-benzyloxyethanol 224 mg is refluxed for 30 minutes. After cooling the reaction mixture is diluted with water and neutralized with an aqueous saturated sodium hydrogen carbonate solution. The solution is washed with ethyl acetate. The methylene chloride layer is diluted with ethyl acetate, washed, dried and concentrated in vacuo. The residue is separated with silica gel chromatography (solvent; hexane:ethyl acetate=5:1) to give 4-(3-chloro-4-methoxybenzylamino)-5-(2-benzyloxyethoxycarbonyl)-6-chloro-2-methylthiopyrimidine as a colorless oil 655 mg.

reactant | 4-(3-chloro-4-methoxybenzylamino)-5-chloroformyl-6-chloro-2-methylthiopyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)Cl)Cl)SC)C=CC1OC | C14H12Cl3N3O2S
reactant | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
reactant | 2-benzyloxyethanol | 224 mg | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 4-(3-chloro-4-methoxybenzylamino)-5-(2-benzyloxyethoxycarbonyl)-6-chloro-2-methylthiopyrimidine | 655 mg | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OCCOCC2=CC=CC=C2)Cl)SC)C=CC1OC | C23H23Cl2N3O4S
